US07300935B2
A solution of methylphenethylether (1.0 g, 7.34 mmol), NBS (1.96 g, 11.01 mmol) and AIBN (240 mg, 1.47 mmol) in carbon tetrachloride (30 ml) was heated under reflux for 2 hours. After cooling, the reaction mixture was diluted with saturated aqueous solution of sodium bicarbonate and extracted with chloroform. The extract was washed with saturated brine, dried over magnesium sulfate and concentrated under reduced pressure to give a crude 2-methoxy-1-phenylbromoethane (1.33 g, 84%) as brown liquid.

reactant | methylphenethylether | 7.34 mmol, 1.0 g | COCCC1=CC=CC=C1 | C9H12O
reactant | NBS | 11.01 mmol, 1.96 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 1.47 mmol, 240 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2-methoxy-1-phenylbromoethane | 1.33 g, 84% | COCC(C1=CC=CC=C1)Br | C9H11BrO
